US07371748B2
4-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide
Using 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and 4-chloromethyl-benzoic acid, the title compound was prepared in the same manner as described for 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide and obtained as light brown powder. MS: m/e=434(M+H+).

reactant | 7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | 4-chloromethyl-benzoic acid | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | 5-methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C19H20N2O4S2
product | 4-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3COCCOC3)OC)C=C1 | C21H21ClN2O4S
